US05198014
A stirred slurry of 0.35 gram (0.0009 mole) of ethyl 2-chloro-3-[4-cyano-1-(2,3,4-trichlorophenyl)-1H-pyrazol-5-yl]propionate and 0.24 gram (0.002 mole) of potassium carbonate in 35 mL of 50% aqueous ethanol was heated at reflux for one hour. The reaction mixture was then cooled and concentrated under reduced pressure, leaving a residue. The residue was dissolved in water, and the solution was washed once with methylene chloride. The aqueous layer was stirred and acidified by the dropwise addition of concentrated hydrochloric acid. Upon acidification, the mixture was stirred for one hour, and the resultant solid was collected by filtration. The solid was dried, yielding 0.21 gram of 3-[4-cyano-1-(2,3,4-trichlorophenyl)-1H-pyrazol-5-yl]acrylic acid; m.p. 215°-219° C. A small sample was recrystallized from ethanol and water to raise the m.p. to 226.5°-228.5° C. The nmr spectrum was consistent with the proposed structure.

reactant | ethyl 2-chloro-3-[4-cyano-1-(2,3,4-trichlorophenyl)-1H-pyrazol-5-yl]propionate | 0.0009 mole, 0.35 gram | ClC(C(=O)OCC)CC1=C(C=NN1C1=C(C(=C(C=C1)Cl)Cl)Cl)C#N | C15H11Cl4N3O2
reactant | potassium carbonate | 0.002 mole, 0.24 gram | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 35 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-[4-cyano-1-(2,3,4-trichlorophenyl)-1H-pyrazol-5-yl]acrylic acid | 0.21 gram | C(#N)C=1C=NN(C1C=CC(=O)O)C1=C(C(=C(C=C1)Cl)Cl)Cl | C13H6Cl3N3O2
